US07271197B2
3-[(2-{4-[2-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)ethyl]phenoxy}ethoxy)methyl]benzenesulfonamide
3-({2-[4-(2-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)-N,N-bis{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide (0.015 g) was heated at 75° for 6 h in acetic acid (1.5 ml) and water (0.75 ml). The solution was evaporated to dryness and re-evaporated twice with methanol to give crude product (0.012 g). This was purified by preparative layer chromatography on a silica plate (20×20 cm) which was developed twice in dichloromethane:ethanol: 0.880 ammonia solution, 25:8:1. After elution of the required band using methanol in dichloromethane, the eluate was evaporated to dryness and re-evaporated successively with acetic acid in methanol and then methanol to give the title compound (0.0037 g) LCMS RT=2.19 min. ES+ve 517 (MH)+

reactant | 3-({2-[4-(2-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)-N,N-bis{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 0.015 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCC2=CC=C(OCCOCC=1C=C(C=CC1)S(=O)(=O)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C=C2)O)C | C41H64N2O9SSi2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.75 ml | O | H2O
product | 3-[(2-{4-[2-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)ethyl]phenoxy}ethoxy)methyl]benzenesulfonamide | 0.0037 g | O[C@@H](CNCCC1=CC=C(OCCOCC=2C=C(C=CC2)S(=O)(=O)N)C=C1)C1=CC(=C(C=C1)O)CO | C26H32N2O7S
